US05530019
The procedure of Ex. 16 was repeated except that (E)-ethyl 4-(3-cinnamoyl-1-indolyl)butyrate obtained in Ex. 60 was used in place of ethyl 4-[3-[8-(4-isobutylphenyl)undecanoyl]-1-indolyl]butyrate to give (E)-4-(3-cinnamoyl-1-indolyl)butyric acid.

reactant | (E)-ethyl 4-(3-cinnamoyl-1-indolyl)butyrate | C(\C=C\C1=CC=CC=C1)(=O)C1=CN(C2=CC=CC=C12)CCCC(=O)OCC | C23H23NO3
reactant | ethyl 4-[3-[8-(4-isobutylphenyl)undecanoyl]-1-indolyl]butyrate | C(C(C)C)C1=CC=C(C=C1)C(CCCCCCC(=O)C1=CN(C2=CC=CC=C12)CCCC(=O)OCC)CCC | C35H49NO3
product | (E)-4-(3-cinnamoyl-1-indolyl)butyric acid | C(\C=C\C1=CC=CC=C1)(=O)C1=CN(C2=CC=CC=C12)CCCC(=O)O | C21H19NO3
